US04994606
2-nitro-4,5-difluorobenzoic acid (1.0 g) was added to 10 mL of water. 0.2 g of NaOH was added, followed by 1.0 g of sodium formate. 0.05 g of 10% palladium on carbon was added, and the mixture was heated to 90° C. for 2.5 h. After cooling, a suitable internal standard was added. 19F NMR internal standard analysis of the entire reaction mixture indicated a 93% yield of 4,5-difluoroanthranilic acid.

reactant | 2-nitro-4,5-difluorobenzoic acid | 1.0 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F2NO4
reactant | NaOH | 0.2 g | [OH-].[Na+]
reactant | sodium formate | 1.0 g | C(=O)[O-].[Na+]
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | water | 10 mL | O | H2O
product | 4,5-difluoroanthranilic acid | 93% yield | FC=1C=C(C(C(=O)O)=CC1F)N | C7H5F2NO2
